US05298652
Conversion of 3-nitro-5-(octadecyloxy)benzoic acid to the acid chloride with thionyl chloride followed by treatment with dimethyl iminodiacetate gave a 79% yield of N-(2-methoxy-2-oxoethyl)-N-[3-nitro-5-(octadecyloxy)benzoyl]glycine methyl ester as an oil after chromatography on silica gel using 25% ethyl acetate-hexane. The nmr spectrum was consistent with the structure.

reactant | 3-nitro-5-(octadecyloxy)benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)OCCCCCCCCCCCCCCCCCC | C25H41NO5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dimethyl iminodiacetate | N(CC(=O)OC)CC(=O)OC | C6H11NO4
product | N-(2-methoxy-2-oxoethyl)-N-[3-nitro-5-(octadecyloxy)benzoyl]glycine methyl ester | 79% yield | COC(CN(C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)[N+](=O)[O-])=O)CC(=O)OC)=O | C31H50N2O8
